US07851626B2
rac-4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-2-one
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 2-piperazinone (Avocado Organics) to give the title compound. HR-MS (ES, m/z) calculated for C31H30N4O3F3Cl2 [(M+H)+] 633.1642, observed 633.1638.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C27H22Cl3F3N2O2
reactant | 2-piperazinone | N1C(CNCC1)=O | C4H8N2O
product | rac-4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-2-one | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CC(NCC1)=O)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C31H29Cl2F3N4O3
